US04430332
1-(1-methyl-1-phenyl-2-propynyloxy)-2-(N-pyrrolidinyl)-3-phenoxy propane
27.5 g of 1-pyrrolidinyl-2-chloro-3-phenoxy propane were gradually introduced into a reactor containing 29.2 g of 2-phenyl-3-butyne-2-ol, 20 g of sodium hydroxide in 20 ml of water and 2.27 g of benzyl triethylammonium, while stirring well. When the addition ended, the reaction medium was very thick and 20 ml of benzene were added before refluxing for 5 hours. The product was then extracted with ether, filtered, washed and dried as indicated in Example 1.

reactant | 1-pyrrolidinyl-2-chloro-3-phenoxy propane | 27.5 g | N1(CCCC1)CC(COC1=CC=CC=C1)Cl | C13H18ClNO
reactant | 2-phenyl-3-butyne-2-ol | 29.2 g | C1(=CC=CC=C1)C(C)(C#C)O | C10H10O
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | benzyl triethylammonium | 2.27 g | C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 20 ml | O | H2O
product | 1-(1-methyl-1-phenyl-2-propynyloxy)-2-(N-pyrrolidinyl)-3-phenoxy propane | CC(C#C)(OCC(COC1=CC=CC=C1)N1CCCC1)C1=CC=CC=C1 | C23H27NO2
